US04826982
Ethyl 2-(3-bromo-2,4,5-trifluorobenzoyl)-3-cyclopropylaminoacrylate
To a solution of ethyl 2-(3-bromo-2,4,5-trifluorobenzoyl)-3-ethoxyacrylate (1.75 g) in absolute ethanol (5 ml) was added a solution of cyclopropylamine (0.32 g) in absolute ethanol (2 ml) under ice-cooling during 30 minutes. The mixture was stirred at 5°-20° C. for 2.5 hours and concentrated. The residue was recrystallized from petroleum ether to give the title compound (1.36 g), mp 74°-76° C.

reactant | ethyl 2-(3-bromo-2,4,5-trifluorobenzoyl)-3-ethoxyacrylate | 1.75 g | BrC=1C(=C(C(=O)C(C(=O)OCC)=COCC)C=C(C1F)F)F | C14H12BrF3O4
reactant | cyclopropylamine | 0.32 g | C1(CC1)N | C3H7N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Ethyl 2-(3-bromo-2,4,5-trifluorobenzoyl)-3-cyclopropylaminoacrylate | 1.36 g | BrC=1C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C1F)F)F | C15H13BrF3NO3
